US03944675
N-(3,4-Dimethoxybenzyl)-1-adamantanecarboxamide
Subject 4.0 g. (20 mmoles) of adamantane carboxylic acid chloride, 3.3 g. (20 mmoles) of veratrylamine and 10.0 ml. of triethylamine to the process of Example 11 and obtain thereby the title product, m.p. 120°-122°C.

reactant | adamantane carboxylic acid chloride | 20 mmoles | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | veratrylamine | 20 mmoles | C(C1=CC(OC)=C(OC)C=C1)N | C9H13NO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(3,4-Dimethoxybenzyl)-1-adamantanecarboxamide | COC=1C=C(CNC(=O)C23CC4CC(CC(C2)C4)C3)C=CC1OC | C20H27NO3
